US05478842
Using an analogous procedure to that described in Example 5, 8-fluoro-6-iodo-1-methyl-1,2,3,4-tetrahydroquinolin-2-one with (2S,4R)-4-hydroxy-4-(2-mercaptothien-4-yl)-2-methyltetrahydropyran to give (2S,4R)-4-[2-(8-fluoro-1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thien-4-yl]-4-hydroxy-2-methyltetrahydropyran in 40% yield as a foam;

reactant | 8-fluoro-6-iodo-1-methyl-1,2,3,4-tetrahydroquinolin-2-one | FC=1C=C(C=C2CCC(N(C12)C)=O)I | C10H9FINO
reactant | (2S,4R)-4-hydroxy-4-(2-mercaptothien-4-yl)-2-methyltetrahydropyran | O[C@]1(C[C@@H](OCC1)C)C=1C=C(SC1)S | C10H14O2S2
product | (2S,4R)-4-[2-(8-fluoro-1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thien-4-yl]-4-hydroxy-2-methyltetrahydropyran | 40% yield | FC=1C=C(C=C2CCC(N(C12)C)=O)SC=1SC=C(C1)[C@@]1(C[C@@H](OCC1)C)O | C20H22FNO3S2
